US08912173B2
415 mg N-(2-acetyl-4-bromophenyl)acetamide and 0.624 g of ammonium acetate was dissolved in 5 mL of glacial acetic acid and heated for 2 days at 100° C. The solvent was removed and the residue suspended in water and extracted with DCM. The organic phase was concentrated and purified via FCC (25 g SiO2, DCM:MeOH 100:0→70:30) to yield 90 mg of 6-bromo-2,4-dimethylquinazoline as oil. Analysis: HPLC-MS: Rt=1.26 min (method V003—003), M+H=237/239.

reactant | N-(2-acetyl-4-bromophenyl)acetamide | 415 mg | C(C)(=O)C1=C(C=CC(=C1)Br)NC(C)=O | C10H10BrNO2
reactant | ammonium acetate | 0.624 g | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | 6-bromo-2,4-dimethylquinazoline | 90 mg | BrC=1C=C2C(=NC(=NC2=CC1)C)C | C10H9BrN2
